US04033751
12.9 Parts of 2-(4-chloro-2-fluorophenyl)-4,4a,5,6,7,8-hexahydro-3(2H)-cinnolinone was dissolved in 30 parts of glacial acetic acid. To the reaction solution was added a solution of 7.4 parts of bromine in 5 parts glacial acetic acid. After addition was complete, the reaction solution was refluxed for 1.5 hours, then cooled, and the solvent removed under a reduced pressure of 300 mm Hg. The resulting residual brown oil was dissolved in 150 parts of methylene chloride; the organic solution was washed with saturated aqueous sodium bicarbonate solution, dried with anhydrous magnesium sulfate, and the solvent removed under a reduced pressure of 300 mm Hg. The residual brown, oily, solid was chromatographed on alumina, eluting with a mixture of ether (67% by volume) and hexane (33% by volume) to afford 2-(4-chloro-2-fluorophenyl)-5,6,7,8-tetrahydro-3(2H)-cinnolinone as a brown oil that solidified on scratching. Purification was achieved by recrystallization from benzene-hexane to yield 2.5 parts of tan crystalline solid, mp 104°-108°.

reactant | 2-(4-chloro-2-fluorophenyl)-4,4a,5,6,7,8-hexahydro-3(2H)-cinnolinone | ClC1=CC(=C(C=C1)N1N=C2CCCCC2CC1=O)F | C14H14ClFN2O
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-chloro-2-fluorophenyl)-5,6,7,8-tetrahydro-3(2H)-cinnolinone | ClC1=CC(=C(C=C1)N1N=C2CCCCC2=CC1=O)F | C14H12ClFN2O
